US06821965B1
3-[2-amino-5-(4-methylpiperazin-1-yl)benzamido]-4-chloro-N-(3-fluoro-5-morpholinophenyl)benzamide
Iron powder (0.726 g) was added to a stirred suspension of 4-chloro-N-(3-fluoro-5-morpholinophenyl)-3-[5-(4-methylpiperazin-1-yl)-2-nitrobenzamido]benzamide (0.76 g), water (2 ml), acetic acid (0.5 ml) and ethanol (15 ml) and the resultant mixture was stirred and heated to reflux for 1 hour. The mixture was cooled to ambient temperature. Water (80 ml) was added and the mixture was basified by the addition of sodium carbonate. The resultant mixture was filtered through diatomaceous earth and the separated solids were washed in turn with methylene chloride and methanol. The combined filtrates were evaporated and the residue was triturated under ethyl acetate. The mixture was filtered and the filtrate was evaporated to give the title compound (0.385 g); Mass Spectrum: M+H+ 567.

reactant | 4-chloro-N-(3-fluoro-5-morpholinophenyl)-3-[5-(4-methylpiperazin-1-yl)-2-nitrobenzamido]benzamide | 0.76 g | ClC1=C(C=C(C(=O)NC2=CC(=CC(=C2)N2CCOCC2)F)C=C1)NC(C1=C(C=CC(=C1)N1CCN(CC1)C)[N+](=O)[O-])=O | C29H30ClFN6O5
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Iron | 0.726 g | [Fe] | Fe
solvent | Water | 80 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 3-[2-amino-5-(4-methylpiperazin-1-yl)benzamido]-4-chloro-N-(3-fluoro-5-morpholinophenyl)benzamide | 0.385 g | NC1=C(C(=O)NC=2C=C(C(=O)NC3=CC(=CC(=C3)N3CCOCC3)F)C=CC2Cl)C=C(C=C1)N1CCN(CC1)C | C29H32ClFN6O3
